US05026859
PREPARATION OF DIMETHYL 5-(1,3-DITHIOLAN-2-YL)-2,3-PYRIDINEDICARBOXYLATE
A solution of dimethyl 5-formylpyridine-2,3-dicarboxylate (0.73 g, 0.00327 mol), ethanedithiol (0.357 mL, 0.00425 mol) and a catalytic amount of para-toluenesulfonic acid in chloroform (20 mL) is heated at reflux for 5.5 hours. During this time, water is removed by placement of an addition funnel containing 3 angstrom molecular sieves in between the reaction flask and the reflux condensor. After cooling, the reaction is diluted with methylene chloride (20 mL) and is washed with 10% aqueous sodium carbonate and saturated sodium chloride solutions. The organic solution is dried over anhydrous magnesium sulfate and concentrated in vacuo to give a residue. The residue is purified by chromatography using silica gel and 33% ethyl acetate in hexanes as eluant to yield the title compound as a clear oil (0.66 g, 67%), identified by IR and NMR spectral analyses.

reactant | dimethyl 5-formylpyridine-2,3-dicarboxylate | 0.00327 mol, 0.73 g | C(=O)C=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C10H9NO5
reactant | ethanedithiol | 0.00425 mol, 0.357 mL | C(C)(S)S | C2H6S2
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | DIMETHYL 5-(1,3-DITHIOLAN-2-YL)-2,3-PYRIDINEDICARBOXYLATE | 0.66 g, 67% | S1C(SCC1)C=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C12H13NO4S2
